US06548495B2
3-(4-oxo-7-Pyrrol-1-yl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-benzonitrile
Alternatively, the title compound was also prepared from (3-(3-cyano-phenyl)-N-(2-nitro-5-pyrrol-1-yl-phenyl)-3-oxo-propionamide (Example M4) by reductive cyclization with SnCl2.2H2O in EtOH at 70° C. according to the general procedure J (method b). Obtained as an olive solid (161 mg).

reactant | 3-(3-cyano-phenyl)-N-(2-nitro-5-pyrrol-1-yl-phenyl)-3-oxo-propionamide | C(#N)C=1C=C(C=CC1)C(CC(=O)NC1=C(C=CC(=C1)N1C=CC=C1)[N+](=O)[O-])=O | C20H14N4O4
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
solvent | EtOH | CCO | C2H6O
product | 3-(4-oxo-7-Pyrrol-1-yl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-benzonitrile | O=C1NC2=C(N=C(C1)C=1C=C(C#N)C=CC1)C=CC(=C2)N2C=CC=C2 | C20H14N4O
